US08440652B2
To a solution of 6-chloro-1,2,3,4-tetrahydro-2,7-naphthyridine hydrochloride (5.0 g, 24.4 mmol) and ditertbutyl dicarbonate (8.0 g, 36.6 mmol) in DCM (100 mL) at room temperature was added triethylamine (10.2 mL, 73.2 mmol). Upon completion, the reaction was diluted in DCM (100 mL), washed with a sat. aq. NaHCO3, dried over Na2SO4, filtered and concentrated. This residue was purified by flash chromatography over silica gel (20% EtOAc/hexane eluent) to afford tert-butyl 6-chloro-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate (4.0 g, 61% yield) as a clear oil. 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.17 (s, 1H), 7.30 (s, 1H), 4.60 (s, 2H), 3.66 (t, J=5.9 Hz, 2H), 2.88 (t, J=5.8 Hz, 2H), 1.43-1.61 (m, 9H); MS (EI) m/z=269.7 [M+1]+.

reactant | 6-chloro-1,2,3,4-tetrahydro-2,7-naphthyridine hydrochloride | 24.4 mmol, 5.0 g | Cl.ClC=1C=C2CCNCC2=CN1
reactant | ditertbutyl dicarbonate | 36.6 mmol, 8.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 73.2 mmol, 10.2 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-chloro-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate | 4.0 g, 61% yield | ClC=1C=C2CCN(CC2=CN1)C(=O)OC(C)(C)C | C13H17ClN2O2
